US05177217
(S)-2-(p-Toluenesulfonylamino)-1,4-butanediol, 2, (46 g) was dissolved in methylene chloride (450 mL) and triethylamine (60 g) was added. The resulting solution was cooled to -5° C. under a nitrogen atmosphere and a solution of methanesulfonyl chloride (42.0 g) in methylene chloride (110 mL) was added dropwise over 3 hours. The resulting mixture was stirred an additional 0.5 hour at 0° to 5° C. and water (150 mL) and methylene chloride (350 mL) were cautiously added. The layers were separated and the organic layer extracted with 0.1 N HCl (100 mL) and demineralized water (100 mL) and then concentrated under vacuum to give (S)-2-(2'-methanesulfonyloxy-ethyl)-1 (p-toluenesulfonyl)aziridine, 3, as a light yellow solid (57.2 g) which was used directly in the next step without further purification. A portion was recrystallized from ethyl acetate and hexanes: mp 78°-80° C.

reactant | (S)-2-(p-Toluenesulfonylamino)-1,4-butanediol | C1(=CC=C(C=C1)S(=O)(=O)N[C@H](CO)CCO)C | C11H17NO4S
reactant | triethylamine | 60 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 42.0 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 150 mL | O | H2O
solvent | methylene chloride | 450 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 110 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 350 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(2'-methanesulfonyloxy-ethyl)-1 (p-toluenesulfonyl)aziridine | CS(=O)(=O)OCCC1[N@](C1)S(=O)(=O)C1=CC=C(C=C1)C | C12H17NO5S2
